US04044015
A. imidazo[1,2-a]pyridine
A mixture of 47 g. of 2-aminopyridine, 120 g. of a 45% chloroacetaldehyde solution in water and 50.4 g. of sodium bicarbonate in 400 ml. of anhydrous ethanol and 100 ml. of water is heated to reflux for 3 hrs. The reaction mixture is cooled, treated with 900 ml. of water and extracted with diethyl ether (3 × 700 ml.). The combined extracts are dried over sodium sulfate and concentrated to a brown oil. Distillation gives 18.8 g. of the desired intermediate as a light yellow oil, b.p. 70° C./0.02 mm.

reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | imidazo[1,2-a]pyridine | N=1C=CN2C1C=CC=C2 | C7H6N2
